US05134140
N-[2-[[(6-Hydroxy-2-benzofuranyl)methyl]amino]ethyl]tricyclo[3.3.1.13,7 ]decane-1-carboxamide
N-[2-[[(6-Phenylmethoxy-2-benzofuranyl)methyl]amino]ethyl]tricyclo[3.3.1.13,7 ]decane-1-carboxamide (4.74 g, 10 mmole) was dissolved in 100 ml of ethanol and 1.0 g of 10% palladium on carbon was added. The mixture was hydrogenated at 50 psi on a Parr apparatus overnight. The mixture was then filtered through celite and concentrated in vacuum. The residue was column chromatographed on 100 g of silica gel using 5% methanol/chloroform as eluant and the crude product thus obtained was crystallized from 15 ml of ethanol with the addition of 8 ml of 4N HCl/isopropanol and 100 ml of diethyl ether to give 1.6 g of the title compound as a white solid, monohydrochloride, quarter hydrate, m.p. 136°-139° C.

reactant | N-[2-[[(6-Phenylmethoxy-2-benzofuranyl)methyl]amino]ethyl]tricyclo[3.3.1.13,7 ]decane-1-carboxamide | 10 mmole, 4.74 g | C1(=CC=CC=C1)COC1=CC2=C(C=C(O2)CNCCNC(=O)C23CC4CC(CC(C2)C4)C3)C=C1 | C29H34N2O3
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
product | N-[2-[[(6-Hydroxy-2-benzofuranyl)methyl]amino]ethyl]tricyclo[3.3.1.13,7 ]decane-1-carboxamide | 1.6 g | OC1=CC2=C(C=C(O2)CNCCNC(=O)C23CC4CC(CC(C2)C4)C3)C=C1 | C22H28N2O3
